US04306097
To a -78° C. solution of 17.4 g (0.10 mole) of dibromomethane and 21.7 g (0.050 mole) of 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4,5-dimethylcyclohexanone in 100 ml of tetrahydrofuran is added dropwise over a period of 2 hours a solution of lithium dicyclohexylamide (0.10 mole) in 100 ml of tetrahydrofuran. The reaction is stirred one hour longer at -78° C. and quenched by addition of 2 ml (0.11 mole) of water. The reaction is added to 300 ml ether and 200 ml water. The ether extract is dried over magnesium sulfate and evaporated. The crude product is purified via column chromatography on 500 g of silica gel eluted with ether-pentane to give pure 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-1-dibromomethyl-4,5-dimethylcyclohexanol.

reactant | dibromomethane | 0.10 mole, 17.4 g | BrCBr | CH2Br2
reactant | 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4,5-dimethylcyclohexanone | 0.050 mole, 21.7 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1CC(CC(C1C)C)=O | C30H42O2
reactant | lithium dicyclohexylamide | 0.10 mole | C1(CCCCC1)[N-]C1CCCCC1.[Li+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | water | 0.11 mole, 2 ml | O | H2O
product | 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-1-dibromomethyl-4,5-dimethylcyclohexanol | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1CC(CC(C1C)C)(O)C(Br)Br | C31H44Br2O2
